US06048878
b) 1-tert-Butyloxycarbonyl-4-benzyl-4fluoropiperidine
To a cooled (-71° C.) and stirred solution of diethylaminosulfur trifluoride (634 μl, 4.80 mmol) in anhydrous dichloromethane (15 ml) was added dropwise, via cannula, a solution of 1-tert-butyloxycarbonyl-4-benzyl-4-hydroxypiperidine (700 mg, 2.40 mmol) in anhydrous dichloromethane (15 ml) over 20 minutes, under nitrogen. After a further 50 minutes at -75° C., the mixture was warmed to -10° C. and stirred for a further 2 hours. Water (20 ml) and saturated aqueous potassium carbonate (7 ml) were added and products were extracted with diethyl ether (1×70 ml). The organic solution was washed with brine (1×25 ml), dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, hexane-diethyl ether, 86:14) gave 190 mg of 1-tert-butyloxycarbonyl-3,4-dehydro-4-benzylpiperidine and 360 mg (51%) of the title compound as pale yellow oils; δH (360 MHz, CDCl3) 1.44 (9H, s), 1.46-1.78 (4H, m), 2.90 (2H, d, J=22 Hz), 2.98-3.08 (2H, m), 3.86-3.94 (2H, m), 7.16-7.34 (5H, m); m/z (ES) 294 (M+ 1).

reactant | diethylaminosulfur trifluoride | 4.80 mmol, 634 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 1-tert-butyloxycarbonyl-4-benzyl-4-hydroxypiperidine | 2.40 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CC1=CC=CC=C1 | C17H25NO3
reactant | Water | 20 ml | O | H2O
reactant | potassium carbonate | 7 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-tert-Butyloxycarbonyl-4-benzyl-4fluoropiperidine | 360 mg, 51% | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CC1=CC=CC=C1 | C17H24FNO2
